US04555572
1-Chloro-2,4-dinitro-7-(phenylmethoxy)-9(10H)-acridinone
A mixture of 9.7 g of 2-chloro-3,5-dinitro-6-[[4-(phenylmethoxy)phenyl]amino]benzoic acid, 200 ml of 1,2-dichloroethane, 20 ml of phosphorus oxychloride, and 1.0 ml of N,N-dimethylaniline was heated under reflux for 30 minutes. Upon cooling, a solid formed which was collected and washed with 1,2-dichloroethane providing the title compound, mp 217°-220° C.

reactant | 2-chloro-3,5-dinitro-6-[[4-(phenylmethoxy)phenyl]amino]benzoic acid | 9.7 g | ClC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H14ClN3O7
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 1.0 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 1-Chloro-2,4-dinitro-7-(phenylmethoxy)-9(10H)-acridinone | ClC1=C(C=C(C=2NC3=CC=C(C=C3C(C12)=O)OCC1=CC=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C20H12ClN3O6
